US05854199
A suspension of 20 g (0.0724 mols) of α-glutamylglutamic acid in 70 ml of water was dissolved in a 27-% sodium hydroxide aqueous solution until the pH reached 11, and 35 ml of acetone were added thereto. To the solution were added dropwise 15.8 g (0.0724 mols) of lauroyl chloride over a period of 1 hour. When adding lauroyl chloride, the temperature was maintained at 10° C., and 27-% sodium hydroxide was added dropwise simultaneously to keep the pH constant. After the addition of lauroyl chloride, the reaction solution was warmed at 30° C., and allowed to stand for 30 minutes. Subsequently, the pH was adjusted to 1 with the addition of conc. hydrochloric acid. The solid precipitate was separated by filtration, and dried to obtain 30.6 g of N-(N'-lauroyl-α-glutamyl)glutamic acid in a yield of 92%. This solid was analyzed by infrared spectrophotometry. A peak diagnostic of an amide group was observed at 1,650 cm-1 and a peak diagnostic of a carboxyl group was observed at 1,730 cm-1, respectively.

reactant | α-glutamylglutamic acid | 0.0724 mols, 20 g | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C10H16N2O7
reactant | acetone | 35 ml | CC(=O)C | C3H6O
reactant | lauroyl chloride | 0.0724 mols, 15.8 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 70 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | N-(N'-lauroyl-α-glutamyl)glutamic acid | 30.6 g, yield of 92% | C(CCCCCCCCCCC)(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C22H38N2O8
